US04871872
To a stirred suspension of lithium aluminum hydride (12.4 g, 0.032 mol) in 300 ml of tetrahydrofuran at 0° C. under nitrogen was added dropwise a solution of N-carboethoxy-1,2-diphenylethylamine (35.0 g, 0.13 mmol) in 200 ml of tetrahydrofuran. The mixture was heated to reflux for 8 hours. The mixture was cooled in an ice-water bath and water (13 ml), 15% NaOH (13 ml) and water (39 ml) were carefully added to the mixture. The mixture was warmed to ambient temperature and the precipitated salts were removed by filtration through celite. Removal of solvent gave N-methyl-1,2-diphenylethylamine, 26.8 g as a colorless oil.

reactant | lithium aluminum hydride | 0.032 mol, 12.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-carboethoxy-1,2-diphenylethylamine | 0.13 mmol, 35.0 g | C(=O)(OCC)NC(CC1=CC=CC=C1)C1=CC=CC=C1 | C17H19NO2
reactant | water | 13 ml | O | H2O
reactant | NaOH | 13 ml | [OH-].[Na+]
reactant | water | 39 ml | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | N-methyl-1,2-diphenylethylamine | CNC(CC1=CC=CC=C1)C1=CC=CC=C1 | C15H17N
